US06245790B1
To a solution of 2-(4,5-diphenyloxazol-2-yl)-1-(3-cyanobenzyl)-2-cyclohexene (400 mg) in DMF (8 ml) were added NaN3 (100 mg) and NH4Cl (80 mg). After stirred for 12 hours at 120° C., the mixture was partitioned between ethyl acetate and water and the organic layer was washed with 1N-HCl and brine. The dried solvent was evaporated in vacuo and the obtained solid was washed with a mixture of ether and n-hexane to afford 2-(4,5-diphenyloxazol-2-yl)-1-{3-(1H-tetrazol-5-yl)benzyl}-2-cyclohexene (0.36 g).

reactant | 2-(4,5-diphenyloxazol-2-yl)-1-(3-cyanobenzyl)-2-cyclohexene | 400 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC1=CC(=CC=C1)C#N | C29H24N2O
reactant | NaN3 | 100 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 80 mg | [NH4+].[Cl-]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-(4,5-diphenyloxazol-2-yl)-1-{3-(1H-tetrazol-5-yl)benzyl}-2-cyclohexene | 0.36 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC1=CC(=CC=C1)C1=NN=NN1 | C29H25N5O
